US07265144B2
Preparation of 2-{[3-cyclopentyl-1-(2-methylphenyl)-1H-pyrazol-5-yl]amino}benzoic acid
To a solution of methyl 2-{[3-cyclopentyl-1-(2-methylphenyl)-1H-pyrazol-5-yl]amino}benzoate (0.59 mmol, 220 mg) in MeOH (1.8 mL) was added THF (5.4 mL) and 1N aqueous NaOH (1.8 mL). The reaction was stirred at rt for 21 h. The organic solvents were removed under reduced pressure, the residue was diluted with water, and the aqueous solution extracted with diethylether (2×5 mL). The aqueous layer was acidified to pH=1 to 2 with 1N aqueous HCl. The mixture was extracted with ethyl acetate (3×5 mL). After removal of the solvent under reduced pressure, the product was obtained as a white solid (169 mg, 79%). 1H NMR (400 MHz, DMSO-d6) δ 1.58-1.62 (m, 2H), 1.65-1.78 (m, 4H), 1.90-2.01 (m, 2H), 2.06 (s, 3H), 2.99-3.10 (m, 1H), 6.23 (s, 1H), 6.80 (t, 1H), 7.20-7.30 (m, 3H), 7.30-7.40 (m, 2H), 7.42-7.51 (m, 1H), 7.81 (d, 1H), 9.84 (s, 1H), 13.14 (s, 1H). ES-MS m/z 362.3 (MH+), HPLC RT (min) 3.39.

reactant | methyl 2-{[3-cyclopentyl-1-(2-methylphenyl)-1H-pyrazol-5-yl]amino}benzoate | 0.59 mmol, 220 mg | C1(CCCC1)C1=NN(C(=C1)NC1=C(C(=O)OC)C=CC=C1)C1=C(C=CC=C1)C | C23H25N3O2
reactant | THF | 5.4 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 1.8 mL | [OH-].[Na+]
solvent | MeOH | 1.8 mL | CO | CH4O
product | 2-{[3-cyclopentyl-1-(2-methylphenyl)-1H-pyrazol-5-yl]amino}benzoic acid | 169 mg, 79% | C1(CCCC1)C1=NN(C(=C1)NC1=C(C(=O)O)C=CC=C1)C1=C(C=CC=C1)C | C22H23N3O2
